US08022062B2
4-Bromo-N-tert-butyl-2-fluoro-benzamide:
Combine 4-bromo-2-fluoro-benzoic acid (5.0 g, 22.83 mmol), thionyl chloride (10 mL, 0.137 mmol) in toluene (10 mL) and reflux for 2 h. Evaporate the reaction mixture to obtain 4-bromo-2-fluoro-benzoyl chloride (5.0 g, 93%) and use for the next step without further purification. Dissolve tert-butylamine (0.8 mL, 5.12 mmol) and triethylamine (0.8 mL, 6.32 mmol) in anhydrous DCM (20 mL), cool to 0° C. and add a solution of 4-bromo-2-fluoro-benzoyl chloride (1.0 g, 4.22 mmol) in anhydrous DCM (10 mL). Stir the reaction mixture at 0° C. for 10 min, warm to ambient temperature and continue to stir for 30 min. Wash the reaction mixture with brine (2×10 mL), dry the organic extracts over anhydrous Na2SO4, evaporate the solvent and purify by chromatography on silica gel eluting with DCM to obtain the desired intermediate as a white solid (1.0 g, 87%). MS (ES+) m/z: 275 (M+H)+.

reactant | tert-butylamine | 5.12 mmol, 0.8 mL | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 6.32 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-fluoro-benzoyl chloride | 4.22 mmol, 1.0 g | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-tert-butyl-2-fluoro-benzamide | 1.0 g, 87% | BrC1=CC(=C(C(=O)NC(C)(C)C)C=C1)F | C11H13BrFNO
